Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Codeine / clonidine / Hydromorphone
 
Attending: ___.
 
Chief Complaint:
Reflux
 
Major Surgical or Invasive Procedure:
___: lap hiatal hernia repair LINX placement

 
History of Present Illness:
 Ms. ___ is a ___ yo female who is s/p hiatal hernia
repair and sleeve gastrectomy w/ total weight loss of 59.8lbs.
After hiatal hernia repair and sleeve gastrectomy, her acid
reflux had resolved and she was without symptoms for nearly ___
years. Over the past 6 months, patient reports that her reflux
has returned and she experiences frequent coughing, 
regurgitation
of food, and sudden vomiting without warning. Since last visit,
pt had esophageal manometry, which was normal per the ___ 
3.0
classification. Also had a 48-hour BRAVO, which showed an 
overall
increased amount of acid reflux- ___ was 31.0.

Pt states that she was recently prescribed trazodone and
sertraline, but has not started them yet. Denies recently
respiratory infections. No fever, chills, sweats. States she has
shortness of breath w/ her reflux. Has a dry cough. Has chest
pain, attributes this to heartburn. Reflux interferes with her
sleep, needs to sleep at a 45 degree angle. Nexium has been
helpful, but does not provide complete relief. States she has
gained weight- about 15lbs over the past 9 months. Is still very
interested in anti-reflux surgery.

 
Past Medical History:
HTN
HLD
Morbid obesity - herniarepair and sleeve gastrectomy w/ total 
weight loss of 59.8lbs
-GERD
Impaired glucose tolerance
Diverticulosis
H. pylori 
OSA does not tolerate CPAP
Spinal stenosis
Migraines
Bradycardia

 
Social History:
___
Family History:
Mother deceased from ___.  Father deceased from colon cancer.
 
Physical Exam:
Vital signs normal and stable
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: normal rhythm and rate, S1 and S2 no murmurs, 
PULM: breathing comfortably, no audible wheezing
ABD: Soft, nondistended, nontender, no rebound or guarding, no 
palpable masses, incisions with dermabond well approximated,
non-erythematous, no drainage or fluctuance
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
none
 
Brief Hospital Course:
Ms. ___ underwent laparoscopic hiatal hernia repair snd 
INX placement. She tolerated the procedure well and recovered in 
the PACU without issues. She voided and her pain was well 
controlled. on POD0, she was tolerating a soft diet. She 
remained hemodynamically stable throughout her hospitalization. 
On ___, she was discharged home with a plan to advance diet as 
tolerated over the next few weeks. She will follow up in clinic. 
She understood this plan and was comfortable with discharge. She 
understands that if she has any further questions or concerns to 
give our office a call. 
 
Medications on Admission:
1.  Acetaminophen 1000 mg PO Q8H when able to tolerate PO  
2.  Nexium 40 mg PO DAILY  
5.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H when able to tolerate PO  
2.  Nexium 40 mg PO DAILY  
3.  Nitrofurantoin (Macrodantin) 100 mg PO Q6H Duration: 5 Days 
RX *nitrofurantoin macrocrystal 100 mg 1 capsule(s) by mouth 
every six (6) hours Disp #*20 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*6 Tablet Refills:*0 
5.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Reflux Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Ms. ___,

You had recurrent and refractory reflux, now s/p lap hiatal 
hernia repair LINX placement, which you tolerated well. You are 
now ready for discharge

 Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Difficult or painful swallowing
 -Nausea, vomiting.
 -Increased shortness of breath

 Pain
 -Take Tylenol ___ every 8 hours on a standing basis (even if 
you don't have pain) over the next ___ days to reduce opiod use
 -Take stool softners while taking narcotics
 -No driving while taking narcotics

 Activity
 -Shower daily. Wash incision with mild soap and water, rinse, 
pat dry
 -No tub bathing, swimming or hot tubs until incision healed
 -No lotions or creams to incision
 -Walk ___ times a day for ___ minutes increase to a Goal of 
30 minutes daily

 Diet:  soft solids as tolerates

 Eat small frequent meals. Sit in chair for all meals. Remain 
sitting up for ___ minutes after all meals

 NO CARBONATED DRINKS

 

 
Followup Instructions:
___